US07335673B2
Preparation of 3-[4-(3,5-dichloropyridine-4-carbonylamino)phenyl]-2-{3-[(2,2-dimethylpropionyl)iso butylamino]-4-methoxyphenyl}propionic acid
Thus obtained 3-[4-(3,5-dichloropyridine-4-carbonylamino)phenyl]-2-{3-[(2,2-dimethylpropionyl) isobutylamino]-4-methoxyphenyl}propionic acid ethyl ester (400 mg, 0.64 mmol) was dissolved in a mixed solvent of methanol (5 mL) and tetrahydrofuran (5 mL), and added with a 2 mol/L aqueous sodium hydroxide solution (5 mL, 10 mmol). The solvent was evaporated under reduced pressure, the resultant residue was added with water to be dissolved, and the solution was washed with diethyl ether. The separated aqueous phase was added with a 1 mol/L hydrochloric acid so as to adjust pH of the solution to 5 to 7. The solution was then extracted with ethyl acetate, dried over anhydrous sodium sulfate, and evaporated under reduced pressure so as to remove the solvent to thereby obtain 3-[4-(3,5-dichloro pyridine-4-carbonylamino)phenyl]-2-{3-[(2,2-dimethyl propionyl)isobutylamino]-4-methoxyphenyl}propionic acid (yield: 353 mg, yield ratio: 92%) as a white solid.

reactant | 3-[4-(3,5-dichloropyridine-4-carbonylamino)phenyl]-2-{3-[(2,2-dimethylpropionyl) isobutylamino]-4-methoxyphenyl}propionic acid ethyl ester | 0.64 mmol, 400 mg | C(C)OC(C(CC1=CC=C(C=C1)NC(=O)C1=C(C=NC=C1Cl)Cl)C1=CC(=C(C=C1)OC)N(CC(C)C)C(C(C)(C)C)=O)=O | C33H39Cl2N3O5
reactant | sodium hydroxide | 10 mmol, 2 mol/L, 5 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-[4-(3,5-dichloropyridine-4-carbonylamino)phenyl]-2-{3-[(2,2-dimethylpropionyl)iso butylamino]-4-methoxyphenyl}propionic acid | ClC=1C=NC=C(C1C(=O)NC1=CC=C(C=C1)CC(C(=O)O)C1=CC(=C(C=C1)OC)N(CC(C)C)C(C(C)(C)C)=O)Cl | C31H35Cl2N3O5
